### PR TITLE
rt crefine: prove preemptionPoint_hrs_htd

### PR DESCRIPTION
**Pull request by lsf37**
This mainly needed additional separate spec lemmas, because the MCS version of preemptionPoint calls larger functions and the resulting condition is too large for automation to handle.

Test with: https://github.com/seL4/seL4/tree/michaelm/ipc_queues_mcs_testing

### CODE REVIEW

**Review by corlewis — APPROVED** [review]

File: proof/crefine/RISCV64/Invoke_C.thy [hunk 1]
```diff
@@ -1707,14 +1707,30 @@ a loop which progressively zeros the memory, ultimately establishing @{term zero
...
+
 lemma preemptionPoint_hrs_htd:
   "\<forall>\<sigma>. \<Gamma>\<turnstile>\<^bsub>/UNIV\<^esub> {\<sigma>} Call preemptionPoint_'proc \<lbrace>hrs_htd \<acute>t_hrs = hrs_htd \<^bsup>\<sigma>\<^esup>t_hrs\<rbrace>"
-  apply (rule allI, rule conseqPre, vcg, clarsimp simp: asm_spec_enabled elim!: asm_specE)
-sorry (* FIXME RT: preemptionPoint_hrs_htd *)
+  apply (rule allI, rule conseqPre)
+   apply (vcg exspec=updateTimestamp_hrs_htd
+              exspec=isIRQPending_hrs_htd
+              exspec=refill_sufficient_hrs_htd)
+  apply (clarsimp)
```
Comment (michaelmcinerney) [inline proof/crefine/RISCV64/Invoke_C.thy]: Nitpick: extra parentheses around this `clarsimp`

**Review by michaelmcinerney — APPROVED** [review]
Excellent, thanks Gerwin!

**Comment by lsf37** [comment]
This has the same proof failure as the other PR, because the `tcbLookupFailure` PR is not merged yet. I'll fix up the review comment and merge anyway.
